US04794186
1.07 g of ethyl (Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetate are dissolved in 5 ml of dimethylsulfoxide, and one g of potassium carbonate and 1.53 g of (R)-3-(p-tosyloxy)-2-pyrrolidone are added thereto. The mixture is stirred at room temperature overnight. Water is added to the reaction mixture, and the aqueous mixture is extracted with chloroform. The extract is washed with water, dried and then concentrated under reduced pressure to dryness. The residue is crystallized with isopropyl ether, and the crystals are recrystallized from aqueous methanol. 0.86 g of ethyl (Z)-2-(2-aminothiazol-4-yl)-2-[((3S)-2-pyrrolidon-3-yl)oxyimino]acetate is obtained. The physico-chemical properties of this product are identical with those of the product obtained in Example 1-(2).

reactant | ethyl (Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetate | 1.07 g | NC=1SC=C(N1)/C(/C(=O)OCC)=N/O | C7H9N3O3S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 5 ml | CS(=O)C | C2H6OS
product | ethyl (Z)-2-(2-aminothiazol-4-yl)-2-[((3S)-2-pyrrolidon-3-yl)oxyimino]acetate | 0.86 g | NC=1SC=C(N1)/C(/C(=O)OCC)=N/O[C@@H]1C(NCC1)=O | C11H14N4O4S
